US08530673B2
Synthesis of 2-thioxonaphth[2,3-d] [1,3]dithiol-5,8-dione: 1-4
In a vessel, the 4,5-bis(bromomethyl)-1,3-dithiol-2-thione: 1-3 (1.10 g), tetraethylammonium iodide (0.38 g), p-benzoquinone (2.77 g), and acetonitrile (60 mL) were charged, and then refluxed for 1 hour. Thereafter, dichloro dicyano benzoquinone (1.62 g) was added in the resultant mixture, and then refluxed for 7 hours. After completion of the reflux, the solvent was distilled away, and methanol was added in the vessel, and then the precipitate was recovered through filtration. The precipitate was washed with methanol, distilled water, and ether in this order, the obtained residue was dissolved in chloroform, and then filtered. The obtained filtrate was recrystallized, to thereby obtain 2-thioxonaphth[2,3-d] [1,3]dithiol-5,8-dione: 1-4 in a yield of 78%. The target compound was identified through NMR analysis: 1H-NMR (CDCl3, TMS) σ: 7.04 (s, 2H), 8.15 (s, 2H).

reactant | 4,5-bis(bromomethyl)-1,3-dithiol-2-thione | BrCC=1SC(SC1CBr)=S | C5H4Br2S3
reactant | p-benzoquinone | 2.77 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | dichloro dicyano benzoquinone | 1.62 g | ClC1=C(C(C(=C(C1=O)C#N)C#N)=O)Cl | C8Cl2N2O2
catalyst | tetraethylammonium iodide | 0.38 g | [I-].C(C)[N+](CC)(CC)CC
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 2-thioxonaphth[2,3-d] [1,3]dithiol-5,8-dione | yield of 78% | S=C1SC2=C(S1)C=C1C(C=CC(C1=C2)=O)=O | C11H4O2S3
